2162-10-18 09:43:00 Physician Resident Progress Note
Chief Complaint: dypnea, increased o2 requirements, and hypotension
   24 Hour Events:
   Continues to tolerate CVVH, [**Doctor Last Name **] wanted limit neg 1.5L off via cvvh.
   Decreased midaz to 1/2 dose. stop dates verified 400cc dark serosang
   fluid from abd wound, no active extravisation, no si infection. team
   knows about this, they opened dressing and stopped oozing w/ surgicel.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2162-10-16**] 08:00 AM
   Meropenem - [**2162-10-17**] 10:00 PM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Metoprolol - [**2162-10-17**] 03:33 PM
   Pantoprazole (Protonix) - [**2162-10-17**] 08:00 PM
   Lorazepam (Ativan) - [**2162-10-18**] 05:30 AM
   Midazolam (Versed) - [**2162-10-18**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: hypotension
   Nutritional Support: Parenteral nutrition
   Gastrointestinal: wound bleeding stopped
   Genitourinary: Dialysis, cvvd
   Integumentary (skin): Jaundice
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-10-18**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.5
C (95.9
   HR: 78 (75 - 92) bpm
   BP: 94/45(63) {94/45(63) - 142/69(98)} mmHg
   RR: 26 (24 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.7 kg (admission): 71.2 kg
   Height: 69 Inch
    CVP: 10 (6 - 16)mmHg
   Total In:
                                                                  4,495 mL
                                                                  1,653 mL
   PO:
   TF:
                                                                    505 mL
                                                                    198 mL
   IVF:
                                                                  2,024 mL
                                                                    606 mL
   Blood products:
                                                                    100 mL
                                                                     50 mL
   Total out:
                                                                  5,328 mL
                                                                  2,406 mL
   Urine:
                                                                    861 mL
                                                                    150 mL
   NG:
                                                                    350 mL
                                                                     50 mL
   Stool:
                                                                    250 mL
                                                                    200 mL
   Drains:
                                                                    170 mL
                                                                    150 mL
   Balance:
                                                                   -833 mL
                                                                   -753 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 36 cmH2O
   Plateau: 0 cmH2O
   SpO2: 100%
   ABG: 7.28/55/161/26/-1
   Ve: 10.8 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: critical, vented
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: wound dressing in place, minimal serosanguinous fluid from
   drain,
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Sedated, Tone: Decreased
   Labs / Radiology
   205 K/uL
   9.2 g/dL
   114 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.4 mEq/L
   35 mg/dL
   97 mEq/L
   132 mEq/L
   27.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2162-10-17**]  04:11 AM
                             [**2162-10-17**]  07:55 AM
                             [**2162-10-17**]  08:29 AM
                             [**2162-10-17**]  12:58 PM
                             [**2162-10-17**]  04:09 PM
                             [**2162-10-17**]  09:28 PM
                             [**2162-10-17**]  09:38 PM
                            [**2162-10-18**]  03:57 AM
                            [**2162-10-18**]  04:10 AM
                            [**2162-10-18**]  06:17 AM
   WBC
   13.8
   Hct
   28.4
   27.2
   Plt
   205
   Cr
   1.0
   1.0
   1.0
   TCO2
   28
   28
   28
   28
   27
   Glucose
   118
   114
   115
   102
   106
   112
   107
   122
   114
   Other labs: PT / PTT / INR:16.0/36.0/1.4, CK / CKMB /
   Troponin-T:95/3/0.04, ALT / AST:233/314, Alk Phos / T Bili:605/12.6,
   Amylase / Lipase:41/14, Differential-Neuts:73.0 %, Band:3.0 %,
   Lymph:14.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.1 g/dL, LDH:296 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 LIVER FUNCTION ABNORMALITIES
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
   ASSESSMENT AND PLAN: 66M w/ EUS staged T3N1 distal esophageal adenoca,
   s/p R portacath, 16Fr open feeding jejunostomy [**4-20**], s/p neoadjuvant
   chemorads (5FU/cisplatin) s/p 3-hole esophagectomy [**8-4**]
   POD35 now with ?loculated right apical effusion and pelvic abscesss now
   PPD 11 s/p IR drainage of collections. PPD4 for pelvic drainage  Pt
   presented to TSICU [**9-7**] w/ septic shock.
   .
   NEUROLOGIC:
   - Neuro check q4hrs
   - Pain: fentanyl boluses prn; methadone held [**10-7**] for altered neuro
   status, consider restart if needed
   - Sedation: did not tolerated ween sedation, retained CO2 fighting
   vent, increased again
   .
   CARDIOVASCULAR:
   - HD stable off pressors, cont CVVH as BP tolerates, reassess neg goals
   for today w/ primary team, slight hypotension will [**Month (only) 202**] fluid off VCCH,
   responsive, goal -1.5L
   .
   PULMONARY:
   - s/p trach, currently on pressure control ventilation, change back to
   CMV work on vanc synchrony
   -Stenotrophomonas from sputum - on bactrim [**10-1**] x 3 wks, (end [**10-24**])
   .
   GI / ABD:
   - cholestasis of critical illness - s/p perc chol by IR [**9-28**], LFTs
   continue to rise NTD
   - on tube feeds, ok per general surgery to continue if low output
   through fistula. output ~ 200
   - wound consult/general surgery on board, fistula appliance placed over
   wound (Coloplast), to monitor.
   - f/u LFT's
   .
   NUTRITION:
   - TF's at 1/2 rate (21ml/hr) and TPN started, currently on nutren
   renal, minimize fluids
   .
   RENAL:
   - acute renal failure - ATN, likely AIN from meds (tobra [**2084-10-4**] x 2
   doses) +/- sepsis of unclear source other than pulm. con't CVVHD per
   renal w/ goal -1.5
   .
   HEMATOLOGY:
   - Hct stable
   .
   ENDOCRINE:
   - RISS, target bs < 150, no active issues
   .
   ID:
   - pulm - stenotrophomonas - bactrim x 3wk course (d/c [**10-24**])
   - ?source of other infection - bile, urine, blood, BAL cultures
   pending. on Casofungin for possible fungemia ([**10-8**] hypothermia). [**Last Name (un) 1540**]
   restarted on [**10-8**] for gram negative coverage. Abd U/S [**10-8**] no
   signficant finding. CT abdomen [**10-4**] w/o significant intra-abdominal
   finding. PICC and portacath d/c'ed and sent for culture.
   .
   LINES/TUBES/DRAINS:
   trach, Foley, left Presep line (triple lumen + SvO2), 16Fr open feeding
   jejunostomy, fistula appliance over abdomen
   .
   CONSULTS:
   primary service - thoracic (Dr [**Last Name (STitle) **])
   general surgery
   renal
   .
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:ssi
   PROPHYLAXIS:
   DVT- hep in TPN
   STRESS ULCER- PPI
   VAP BUNDLE-
   COMMUNICATIONS:
   ICU Consent: yes
   CODE STATUS: Full code
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2162-10-17**] 03:15 PM 21 mL/hour
   TPN w/ Lipids - [**2162-10-17**] 09:00 PM 78.[**Telephone/Fax (5) 1993**] mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled, Insulin in TPN
   Lines:
   Arterial Line - [**2162-10-7**] 08:48 PM
   Presep Catheter - [**2162-10-8**] 12:00 PM
   Dialysis Catheter - [**2162-10-13**] 12:09 PM
   Prophylaxis:
   DVT: Boots(hep in TPN)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2162-10-20 08:46:00 Physician Resident Progress Note
Chief Complaint: dypnea, increased o2 requirements, and hypotension
   24 Hour Events:
   Continues to tolerate CVVH, pressure slightly decreased gave small
   bolus. pt RR inc and remains acidemic, PS increased and more
   comfortable. Transfused 2 U PRBCs for hypotn in discussion w/ primary
   team.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2162-10-18**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-10-19**] 09:00 PM
   Lorazepam (Ativan) - [**2162-10-20**] 12:30 AM
   Fentanyl - [**2162-10-20**] 01:00 AM
   Metoprolol - [**2162-10-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds, Parenteral nutrition
   Integumentary (skin): Jaundice
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-10-20**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 90 (76 - 110) bpm
   BP: 100/51(68) {71/37(48) - 127/67(86)} mmHg
   RR: 25 (20 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.2 kg (admission): 71.2 kg
   Height: 69 Inch
    CVP: 16 (8 - 21)mmHg
   Total In:
                                                                  4,782 mL
                                                                  1,559 mL
   PO:
   TF:
                                                                    504 mL
                                                                    183 mL
   IVF:
                                                                  1,570 mL
                                                                    635 mL
   Blood products:
                                                                    720 mL
                                                                     50 mL
   Total out:
                                                                  5,679 mL
                                                                  1,483 mL
   Urine:
                                                                    120 mL
                                                                     25 mL
   NG:
                                                                    450 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    190 mL
                                                                     80 mL
   Balance:
                                                                   -897 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (463 - 530) mL
   PS : 20 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: 7.30/42/114/19/-5
   Ve: 13.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: critical
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, wound unchanged, no si infection
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash: , Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Decreased
   Labs / Radiology
   242 K/uL
   10.1 g/dL
   116 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.5 mEq/L
   37 mg/dL
   99 mEq/L
   132 mEq/L
   29.8 %
   16.9 K/uL
        [image002.jpg]
                            [**2162-10-19**]  09:12 AM
                            [**2162-10-19**]  12:00 PM
                            [**2162-10-19**]  03:05 PM
                            [**2162-10-19**]  03:35 PM
                            [**2162-10-19**]  04:09 PM
                            [**2162-10-19**]  07:58 PM
                            [**2162-10-19**]  10:10 PM
                            [**2162-10-20**]  12:00 AM
                            [**2162-10-20**]  03:45 AM
                            [**2162-10-20**]  04:13 AM
   WBC
   16.9
   Hct
   27.4
   29.8
   Plt
   242
   Cr
   1.0
   1.1
   TCO2
   22
   22
   23
   22
   21
   Glucose
   126
   155
   122
   115
   119
   116
   125
   116
   Other labs: PT / PTT / INR:16.4/37.8/1.5, CK / CKMB /
   Troponin-T:95/3/0.04, ALT / AST:276/366, Alk Phos / T Bili:534/13.2,
   Amylase / Lipase:37/14, Differential-Neuts:73.0 %, Band:3.0 %,
   Lymph:14.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.7 g/dL, LDH:364 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 LIVER FUNCTION ABNORMALITIES
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
   ASSESSMENT AND PLAN: 66M w/EUS staged T3N1 distal esophageal adenoCA,
   s/p R portacath, 16Fr open feeding jejunostomy [**4-20**], s/p neoadjuvant
   chemorads (5FU/cisplatin) s/p 3 hole esophagectomy [**8-4**]
   NEUROLOGIC: does not follow commands, difficult to arouse, midaz prn
   aggitation
   Neuro checks Q:4
   Pain: Fentanyl prn
   CARDIOVASCULAR: HR and BP stable on CVVH, off pressors
   PULMONARY: Cont CPAP trial, continue to wean PEEP , PS increased .
   Decrease PSV during the day,  increase at night.
   GI / ABD: Cholestasis of critical illness, s/p perc chole [**9-28**], LFTs
   continue to be elevated. On Nutren Renal [**12-9**] goal. General surgery
   following abdominal wound. Fistula covered with coloplast
   NUTRITION: TPN and [**12-9**] goal TF's
   RENAL: Cont CVVH, BP slightly lower, Cr normalized  . Increase HCO3 in
   the bath.
   HEMATOLOGY: Hct 27.4, post transfusion of 2U.
   ENDOCRINE: RISS
   ID: Cont Bactrim for Stentotrophomonas [**10-24**] and [**Last Name (un) 1540**] for gram negative
   coverage
   LINES/TUBES/DRAINS: Trach, foley, J-tube, L presep line, R fem HD line,
   fistula appliance over abdomen
   WOUNDS:  abdominal
   IMAGING:
   FLUIDS:
   CONSULTS:
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:
   PROPHYLAXIS:
   DVT - Hep in TPN
   STRESS ULCER - Famotidine in TPN
   VAP BUNDLE - Yes
   COMMUNICATIONS:
   ICU Consent: Signed
   CODE STATUS: Full
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2162-10-19**] 12:54 PM 21 mL/hour
   TPN w/ Lipids - [**2162-10-19**] 08:40 PM 79 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2162-10-7**] 08:48 PM
   Presep Catheter - [**2162-10-8**] 12:00 PM
   Dialysis Catheter - [**2162-10-13**] 12:09 PM
   Prophylaxis:
   DVT: Boots(hep in TPN)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU     31 minutes spent

2162-10-23 05:26:00 Physician Resident Progress Note
Chief Complaint: dypnea, increased o2 requirements, and hypotension
   24 Hour Events:
 BLOOD CULTURED - At [**2162-10-22**] 09:00 AM
   one set
 TRANSTHORACIC ECHO - At [**2162-10-22**] 11:00 AM
   CT torso no new changes. D/C amiodarone, per cards use bb (esmolol prn
   tachy). back on CVVH, full strength TPN and held TF, stayed on CMV, ID
   recs pending. worsening pH w/ increasing compliance, increased
   sedation, cxr and recheck abgs. ABG acidemic w/ co2 54, increased
   sedation and improved ventilation. no other issues overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2162-10-22**] 06:00 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-10-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Parenteral nutrition
   Genitourinary: Dialysis, cvvh
   Integumentary (skin): Jaundice
   Neurologic: unresponsive when off sedation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-10-23**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 65 (65 - 93) bpm
   BP: 95/53(68) {89/45(59) - 110/59(76)} mmHg
   RR: 9 (0 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.5 kg (admission): 71.2 kg
   Height: 69 Inch
    CVP: 25 (21 - 52)mmHg
   Total In:
                                                                  4,274 mL
                                                                    836 mL
   PO:
   TF:
   IVF:
                                                                  1,953 mL
                                                                    405 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,346 mL
                                                                  1,477 mL
   Urine:
                                                                     20 mL
   NG:
                                                                     50 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                     60 mL
                                                                    200 mL
   Balance:
                                                                  1,928 mL
                                                                   -641 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 41 cmH2O
   Plateau: 33 cmH2O
   Compliance: 14.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/46/129/21/-4
   Ve: 12.2 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Thin, critical
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: mild diffuse)
   Abdominal: Soft, wound dressed, drain in place
   Extremities: Right: Trace, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   235 K/uL
   8.9 g/dL
   104 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.7 mEq/L
   61 mg/dL
   98 mEq/L
   134 mEq/L
   25.7 %
   14.7 K/uL
        [image002.jpg]
                            [**2162-10-22**]  11:28 AM
                            [**2162-10-22**]  11:33 AM
                            [**2162-10-22**]  11:53 AM
                            [**2162-10-22**]  04:13 PM
                            [**2162-10-22**]  04:37 PM
                            [**2162-10-22**]  07:27 PM
                            [**2162-10-22**]  07:35 PM
                            [**2162-10-22**]  09:38 PM
                            [**2162-10-22**]  11:35 PM
                            [**2162-10-22**]  11:43 PM
   WBC
   16.5
   15.0
   14.9
   14.7
   Hct
   26.4
   25.7
   25.6
   25.7
   Plt
   223
   220
   220
   235
   Cr
   0.3
   1.8
   1.9
   TropT
   0.08
   0.04
   TCO2
   23
   22
   22
   23
   Glucose
   103
   123
   125
   121
   121
   104
   Other labs: PT / PTT / INR:18.4/42.8/1.7, CK / CKMB /
   Troponin-T:25/3/0.04, ALT / AST:228/270, Alk Phos / T Bili:384/15.5,
   Amylase / Lipase:37/14, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.4 g/dL, LDH:364 IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:7.5
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 ATRIAL FLUTTER (AFLUTTER)
 LIVER FUNCTION ABNORMALITIES
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
   ASSESSMENT AND PLAN: 66M w/EUS staged T3N1 distal esophageal adenoCA,
   s/p R portacath, 16Fr open feeding jejunostomy [**4-20**], s/p neoadjuvant
   chemorads (5FU/cisplatin) s/p 3 hole esophagectomy [**8-4**]
   NEUROLOGIC: does not follow commands, difficult to arouse, midaz prn
   aggitation, cont to wean as tolerated
   Neuro checks Q:4
   Pain: Fentanyl prn
   CARDIOVASCULAR: hypotension improved, weaning from pressors, tolerating
   cvvh running even. cont lopressor, off amio. Cardiac enzymes negative.
   PULMONARY: CMV.
   GI / ABD: Cholestasis of critical illness, s/p perc chole [**9-28**], LFTs
   continue to be elevated. held TF. General surgery following abdominal
   wound. Fistula covered with coloplast   Would cap the t-tube
   NUTRITION: TPN
   RENAL: Cont CVVH
   HEMATOLOGY: stable, transfuse prn
   ENDOCRINE: RISS
   ID: Cont Bactrim for Stentotrophomonas [**10-24**], off meropenem, awaiting
   new ID recs.
   LINES/TUBES/DRAINS: Trach, foley, J-tube, L presep line, R fem HD line,
   fistula appliance over abdomen
   WOUNDS:  abdominal
   IMAGING:  CT negative
   FLUIDS:
   CONSULTS:
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS, insulin in TPN
   PROPHYLAXIS:
   DVT - Hep in TPN
   STRESS ULCER - Famotidine in TPN
   VAP BUNDLE - Yes
   COMMUNICATIONS:
   ICU Consent: Signed
   CODE STATUS: Full
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2162-10-23**] 02:48 AM 80.[**Telephone/Fax (3) 17**] mL/hour
   Glycemic Control:  Blood sugar well controlled, Insulin in TPN
   Lines:
   Arterial Line - [**2162-10-7**] 08:48 PM
   Presep Catheter - [**2162-10-8**] 12:00 PM
   Dialysis Catheter - [**2162-10-13**] 12:09 PM
   18 Gauge - [**2162-10-22**] 12:00 AM
   Prophylaxis:
   DVT: Boots(hep in tpn)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU